datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)c1ccc(/C=N/c2ncc3c(n2)[nH]c[n+:21]3[H:20])cc1.[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O-:10])C1=O>>CN(C)c1ccc(/C=N/c2ncc3c(n2)[nH]c[n:21]3)cc1.[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O:10][H:20])C1=O 10=20;20,21=21",
"COC(=O)C=C(c1ccncc1)[O-:10].C[N+:21](C)(CCC(c1ccccc1)c1ccccn1)[H:20]>>COC(=O)C=C(c1ccncc1)[O:10][H:20].C[N:21](C)CCC(c1ccccc1)c1ccccn1 10=20;20,21=21",
"CC(C)(C[NH3+])C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C[NH3+])C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc([NH3+])cc3)o2)cc1.O=C(O)[C@@H]1CC[C@H](C(=O)[O-:10])C1>>COc1ccc(-c2c[n:21]c(-c3ccc([NH3+])cc3)o2)cc1.O=C(O)[C@@H]1CC[C@H](C(=O)[O:10][H:20])C1 10=20;20,21=21",
"NC(=O)C(Cc1c[nH]cn1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1cnc2c1[N:21]([H:20])C(=O)NC2=O.O=[N+]([O-])c1ccc([NH2:10])cc1>>Cn1cnc2c1[N-:21]C(=O)NC2=O.O=[N+]([O-])c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n+:21]2[H:20])[nH]1.c1ncc2c(n1)nc[n-:10]2>>COc1cc(S(C)=O)ccc1-c1nc2c(ccc[n:21]2)[nH]1.c1ncc2c(n1)nc[n:10]2[H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Cl)cc2)CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Cl)cc2)[H:20])CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCC[N+:21](C)(C)[H:20].CCN(CC)/[N:10]=C(/N)CC[Si](C)(C)C>>CCCC[N:21](C)C.CCN(CC)/[N+:10](=C(/N)CC[Si](C)(C)C)[H:20] 10=20;20,21=21",
"C=CC[N:10]1CCOCC1.Cn1cnc(C(=O)[O-])c1C(=O)[O:21][H:20]>>C=CC[N+:10]1([H:20])CCOCC1.Cn1cnc(C(=O)[O-])c1C(=O)[O-:21] 10=20;20,21=21",
"CCC1(C2=CCCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O.CCCCCCCCCC[NH:10]c1ccccc1>>CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:21]C1=O.CCCCCCCCCC[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"C(=N/[O-:10])\c1ccco1.CC(=O)N1CCNc2nc[n+:21]([H:20])c(C)c21>>C(=N/[O:10][H:20])\c1ccco1.CC(=O)N1CCNc2nc[n:21]c(C)c21 10=20;20,21=21",
"CCC(C)[NH:10]C(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC(C)[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cn1cnc2c1C(=S)[N-:10]C([O-])=N2.Nc1sc(S(=O)(=O)c2ccccc2)c[n+:21]1[H:20]>>Cn1cnc2c1C(=S)[N:10]([H:20])C([O-])=N2.Nc1sc(S(=O)(=O)c2ccccc2)c[n:21]1 10=20;20,21=21",
"CC(C)CCSC(c1ccccc1)=[NH:10].NC1=C/C(=[NH+:21]\[H:20])c2ccccc2C1=O>>CC(C)CCSC(c1ccccc1)=[NH+:10][H:20].NC1=CC(=[NH:21])c2ccccc2C1=O 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CO)[n:10]2.c1ccc(CC[NH2+:21][H:20])nc1>>COc1ccc(OC)c2c1n(C)c(CO)[n+:10]2[H:20].c1ccc(CC[NH2:21])nc1 10=20;20,21=21",
"C[C@H]([C@H](O)c1ccccc1)[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[C@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C=CCC(C)(C[N+:21](CC)(CC)[H:20])OC(=O)CC(C)C.O=C([O-])/C=C\C(=O)[N-:10]OCc1ccccc1>>C=CCC(C)(C[N:21](CC)CC)OC(=O)CC(C)C.O=C([O-])/C=C\C(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"O=C([O-])c1cc2cc(Cn3cc[n:10]c3)ccc2o1.[S-]c1c[n+:21]([H:20])c2ccccc2[nH+]1>>O=C([O-])c1cc2cc(Cn3cc[n+:10]([H:20])c3)ccc2o1.[S-]c1c[n:21]c2ccccc2[nH+]1 10=20;20,21=21",
"Nc1cccc2cc3ccccc3[n:10]c12.O=C([O-])C1Cc2[nH]cnc2C[NH+:21]1[H:20]>>Nc1cccc2cc3ccccc3[n+:10]([H:20])c12.O=C([O-])C1Cc2[nH]cnc2C[NH:21]1 10=20;20,21=21",
"COc1nc2ncncc2[n-:10]1.O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCCCC2)c1>>COc1nc2ncncc2[n:10]1[H:20].O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCCCC2)c1 10=20;20,21=21",
"C=CC[NH:10]CC=C.Cn1cnc(C(=O)[O:21][H:20])c1C(=O)O>>C=CC[NH+:10](CC=C)[H:20].Cn1cnc(C(=O)[O-:21])c1C(=O)O 10=20;20,21=21",
"CCN(CC)CC(=N[O-])/C(C)=N/[O-:10].[NH3+]Cc1ccc([NH2+:21][H:20])cc1>>CCN(CC)CC(=N[O-])/C(C)=N/[O:10][H:20].[NH3+]Cc1ccc([NH2:21])cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[O-]c1cc(C[NH2:10])ccc1F>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O-]c1cc(C[NH2+:10][H:20])ccc1F 10=20;20,21=21",
"CC(CCC(=O)[O-])[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(CCC(=O)[O-])[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccccc1-c1nnn[n:21]1[H:20].O=C(N/N=C/c1ccccc1O)c1cc[n:10]cc1>>Cc1ccccc1-c1nnn[n-:21]1.O=C(N/N=C/c1ccccc1O)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CN(C)C(=O)C[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CN(C)C(=O)C[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n:10]cn1C>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n+:10]([H:20])cn1C 10=20;20,21=21",
"CCCCC(C(=O)[O-])[NH2+:21][H:20].[NH3+]CCCCCCCCCC(=O)[O-:10]>>CCCCC(C(=O)[O-])[NH2:21].[NH3+]CCCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"OB(O)c1ccc([NH2+:21][H:20])cc1.c1cnc[n:10]c1>>OB(O)c1ccc([NH2:21])cc1.c1cnc[n+:10]([H:20])c1 10=20;20,21=21",
"C1CC1[NH2+:21][H:20].CCCC[NH:10]N>>C1CC1[NH2:21].CCCC[NH+:10](N)[H:20] 10=20;20,21=21",
